US06583135B2
Preparation of 3-Benzoyl-10-phenoxy-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole
A mixture of 3-benzoyl-10-bromo-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (1.85 g, 5.00 mmol), phenol (0.94 g, 10.0 mmol), copper (I) oxide (0.036 g, 0.25 mmol), and cesium carbonate (4.89 g, 15.0 mmol) in o-xylene was reacted in a similar manner to Preparation 10 to afford 0.55 g (29%) of colorless solid as the title compound: mp 179-182° C. (CH2Cl2/hexane); IR (KBr) 1601, 3226 cm−1; 1H NMR (300 MHz, CDCl3) δ 8.40-8.24, 7.43-7.34, 7.05-6.90, 6.55-6.50, 4.00-3.90, 3.64-3.55, 3.29-2.84; 13C NMR (75.5 MHz, CDCl3) δ 171.8, 158.1, 150.1, 137.0, 136.9, 135.0, 129.7, 129.3, 128.6, 126.5, 122.6, 122.0, 118.1, 117.6, 110.1, 109.4, 106.5, 51.2, 45.2, 28.9, 27.2; MS (EI) m/z 382 (M+); HRMS cacld for C25H22N2O2+H: 383.1759, found: 383.1749; Anal. Calcd. for C25H22N2O2.1/2H2O: C, 76.70; H, 5.92; N, 7.17. Found: C, 76.72; H, 5.79; N, 7.15.

reactant | 3-benzoyl-10-bromo-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 5.00 mmol, 1.85 g | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)Br | C19H17BrN2O
reactant | phenol | 10.0 mmol, 0.94 g | C1(=CC=CC=C1)O | C6H6O
reactant | cesium carbonate | 15.0 mmol, 4.89 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | o-xylene | CC=1C=CC=CC1C | C8H10
catalyst | copper (I) oxide | 0.25 mmol, 0.036 g | [Cu-]=O
product | 3-Benzoyl-10-phenoxy-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)OC1=CC=CC=C1 | C25H22N2O2
